Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
=================
___ 11:11AM BLOOD WBC-9.7 RBC-3.90 Hgb-12.4 Hct-38.3 MCV-98 
MCH-31.8 MCHC-32.4 RDW-12.1 RDWSD-43.7 Plt ___
___ 11:11AM BLOOD ___ PTT-32.5 ___
___ 11:11AM BLOOD Glucose-102* UreaN-9 Creat-0.5 Na-139 
K-4.1 Cl-103 HCO3-23 AnGap-13
___ 11:11AM BLOOD ALT-14 AST-17 LD(LDH)-178 AlkPhos-51 
TotBili-0.4
___ 11:11AM BLOOD Albumin-4.6
___ 11:11AM BLOOD TSH-1.1
___ 11:11AM BLOOD Free T4-1.6
___ 11:11AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
================
___ 05:35AM BLOOD WBC-5.8 RBC-3.96 Hgb-12.5 Hct-39.0 
MCV-99* MCH-31.6 MCHC-32.1 RDW-12.3 RDWSD-44.5 Plt ___
___ 05:35AM BLOOD ___ PTT-30.4 ___
___ 05:35AM BLOOD Glucose-113* UreaN-10 Creat-0.6 Na-140 
K-4.3 Cl-104 HCO3-23 AnGap-13
___ 05:35AM BLOOD Calcium-8.4 Phos-3.5 Mg-2.0

REPORTS
==========
CXR
FINDINGS: 
 
Subtle opacity projecting over the right lower lung in the 
region of the right
breast is seen on the frontal view but not the lateral 
projection likely
representing prominent breast tissue rather than consolidation.  
Elsewhere,
lungs are clear.  Cardiomediastinal silhouette appears normal.  
No large
effusion or pneumothorax.  Bony structures are intact.
 
IMPRESSION: 
 
No convincing evidence for pneumonia.  Catheter spanning the 
right neck, chest
and upper abdomen may represent a VP shunt

ECG:
Sinus rhythm Atrial premature complex Left bundle branch block 
no previous tracing for comparison

TTE:
Low-normal left ventricular function in the setting of mild 
visual dyssynchrony.
No valvular pathology or pathologic flow identified. Normal 
pulmonary artery systolic pressure.

___: CTA CHEST:
IMPRESSION: 
 
No evidence of pulmonary embolism.
 
Consolidative opacity in the right lower lobe concerning for 
pneumonia. 
___ to complete resolution after course of antibiotics to 
the radiograph
is recommended.
 
Status post total thyroidectomy.  No evidence of local 
recurrence.

 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is a ___ year old female with a past medical history of 
remote thyroid cancer (thyroidectomy in ___, radioactive iodine 
in ___, obstructive hydrocephalus s/p VP shunt, and migraines 
who presented with acute on chronic palpitations, shortness of 
breath, and dyspnea on exertion associated with right arm pain. 
She was admitted for concern for acute coronary syndrome; 
however, EKG was without new ischemic changes and cardiac 
biomarkers were negative. Of note, she was monitored with a 
Ziopatch by her PCP for similar symptoms, but the official read 
is pending. An echocardiogram showed an EF of 51% and mild 
visual desynchrony. A CTPE was negative for pulmonary embolism; 
however, it showed a right lower lobe consolidation concerning 
for infection. She was started on oral Levaquin for a planned 5 
day course. She was evaluated by cardiology, who recommended 
outpatient stress MIBI, cardiology ___, and initiation of 
low-dose beta blocker.  She felt markedly better on low-dose 
propranolol, which was initiated prior to discharge.

TRANSITIONAL ISSUES
====================
[] A CTPE showed a RLL consolidation, concerning for pneumonia. 
She will complete a 5 day course of oral Levaquin, which will be 
complete on ___. Her PCP should coordinate ___ 
imaging in ___ weeks to ensure resolution of the consolidation.
[] She was started on a low dose of propranolol for symptomatic 
management of her palpitations. Her PCP should monitor her blood 
pressure to ensure she is not hypotensive and heart rates.
[] An echocardiogram showed a low-normal EF (51%) and mild 
visual dysynchrony. It is unclear if this is related to her 
symptoms, or if there is any contribution of ischemia. She will 
require cardiology ___ for an exercise MIBI to evaluate 
for CAD or exercise-induced arrhythmia, once her pneumonia has 
resolved.
[] Follow up results of Ziopatch for monitoring for arrhythmia.

#CODE: Full Code
#CONTACT:
Next of Kin: ___
Relationship: ___
Phone: ___

ACUTE ISSUES:
=============
# SYMPTOMATIC PALPIATIONS.
# DYSPNEA ON EXERTION
The patient was noted to be very dyspneic when transferring from 
stretcher to stretcher, without associated hypoxemia. There was 
initial concern for ACS given concurrent arm pain, but troponins 
were negative. EKG showed LBBB of unclear chronicity and mild 
dyssynchrony. She was monitored on telemetry with no acute 
events. A CTPE was negative for pulmonary embolism; however, it 
showed a right lobe infiltrate, most consistent with infection, 
although she never mounted a fever, white count, or cough. She 
was started on PO Levaquin for her pneumonia, for a total 5 day 
course. She was also started on low-dose propranolol for her 
symptomatic palpitations. She will ultimately ___ with 
cardiology for a stress MIBI, once her pneumonia has resolved.

CHRONIC ISSUES:
===============
# FOLLICULAR THYROID CA S/P THYROIDECTOMY (___), ___ (___)
# HYPOTHYROIDISM
Whole body scans in ___ and ___ negative. Recent TFTs slightly 
hyperthyroid.
TSH/T4 in hospital 1.4/1.4, wnl. She was continued on home 
levothyroxine 137mcg 6x/wk

#OBSTRUCTIVE HYDROCEPHALUS S/P VP SHUNT
#MIGRAINES
#HEADACHES
Acquired, unclear etiology, s/p VP shunt with last MRI in ___ 
showing good function without acute intracranial abnormality. 
She is followed by Dr. ___. Of note, has had headaches 
in recent months that are atypical compared to usual (rare) 
migraines; she was evaluated by neuro-ophthalmologist who did 
not visualize optic nerve edema. Recently started on 
amitriptyline by her PCP for possible tension HA ppx; of note, 
she has not been taking this medication. She did not experience 
any headaches in hospital.

#HTN
- continued home lisinopril 10mg daily; Propranolol XR added for 
palpitations.

#MOOD
- Recently prescribed lorazepam 0.5-1mg PO prn; she reports she 
has not been taking this, so it was not continued in hospital.

#COLD SORES
- held home famciclovir, PRN for outbreaks
.
.
.
Time in care: >30 minutes in discharge-related activities on the 
day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. famciclovir 1500 mg oral DAILY:PRN cold sores 
2. Levothyroxine Sodium 137 mcg PO 6X/WEEK (___) 
3. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  LevoFLOXacin 750 mg PO DAILY Duration: 3 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
2.  Propranolol LA 60 mg PO DAILY 
RX *propranolol 60 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
3.  famciclovir 1500 mg oral DAILY:PRN cold sores  
4.  Levothyroxine Sodium 137 mcg PO 6X/WEEK (___)  

5.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
FINAL DIAGNOSIS
===============
Right Lower Lobe Pneumonia

SECONDARY DIAGNOSIS
===================
Left Bundle Branch Block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you were having palpitations, 
shortness of breath, and some pains in your arm, which was 
concerning for a heart issue.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- A number of tests were performed to rule out a serious heart 
issue. You did not have a heart attack, or other serious cardiac 
event. A CAT scan of your chest showed you did not have a clot 
in your lungs. 
- An EKG showed a slight abnormality called a Left Bundle Branch 
Block (LBBB). An echocardiogram (ultrasound of the heart) showed 
that there was a mild discoordination of your heartbeat, 
probably due to this LBBB. This is not dangerous, but there is a 
possibility it is contributing to your symptoms.
- You were evaluated by the cardiologists, who recommend 
performing a "stress test" to further evaluate your heart. You 
will follow up with a cardiologist as an outpatient to set this 
up.
- You were started on a low dose of Propranolol, a medication 
which may help your symptoms.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and ___ 
with your appointments as listed below. 
-You will follow up with a cardiologist at ___ an appointment 
request has been made for you (see below).

We wish you the best! 
 
Sincerely,  

Your ___ Team  

 
Followup Instructions:
___